US08791161B2
N-(5-chloro-2-{[(1-propyl-1H-imidazol-4-yl)methyl]thio}phenyl)-1-benzofuran-2-sulfonamide
Following General Procedure B, the title compound (463 mg, 48%) was prepared from 5-chloro-2-(((1-propyl-1H-imidazol-4-yl)methyl)thio)aniline (587 mg, 2.082 mmol) and benzofuran-2-sulfonyl chloride (451 mg, 2.082 mmol) in pyridine (10 ml).

reactant | 5-chloro-2-(((1-propyl-1H-imidazol-4-yl)methyl)thio)aniline | 2.082 mmol, 587 mg | ClC=1C=CC(=C(N)C1)SCC=1N=CN(C1)CCC | C13H16ClN3S
reactant | benzofuran-2-sulfonyl chloride | 2.082 mmol, 451 mg | O1C(=CC2=C1C=CC=C2)S(=O)(=O)Cl | C8H5ClO3S
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | N-(5-chloro-2-{[(1-propyl-1H-imidazol-4-yl)methyl]thio}phenyl)-1-benzofuran-2-sulfonamide | 463 mg, 48% | ClC=1C=CC(=C(C1)NS(=O)(=O)C=1OC2=C(C1)C=CC=C2)SCC=2N=CN(C2)CCC | C21H20ClN3O3S2
